US07465726B2
4-[4-(Benzothiazol-6-ylamino)-5-cyano-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylicacid tert-butyl ester
To a mixture of 4-[4-(benzothiazol-6-ylamino)-5-bromo-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (20 mg, 0.038 mmol), DPPF (10.1 mg, 0.018 mmol), water (0.04 mL) and zinc cyanide (8.9 mg, 0.075 mmol) in acetonitrile-(4 mL) was added Pd2 dba3 (7.0 mg, 0.007 mmol) and the mixture was heated to reflux under N2 overnight. The reaction mixture was evaporated, and the crude product was purified by preparative TLC using 7% methanol in DCM as eluent to afford the title compound as light gray solid. 1H NMR (400 MHz, CDCl3): δ=8.98 (s, 1H), 8.22 (s, 1H), 8.10 (d, J=8.6 Hz, 1H), 7.78 (d, J=2.0 Hz, 1H), 7.36 (dd, J=8.6, 2.1 Hz, 1H), 6.95 (s, 1H), 5.93 (bs, 1H), 5.36 (s, 1H), 3.99-4.02 (m, 2H), 3.44 (t, J=5.7 Hz, 2H), 3.42 (d, J=4.9 Hz, 2H), 2.07-2.12 (m, 2H), 1.39 (s, 9H); MS (ES+): m/z 472.96 (100) [MH+]; HPLC: tR=3.25 min (ZQ2000, polar—5 min).

reactant | 4-[4-(benzothiazol-6-ylamino)-5-bromo-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.038 mmol, 20 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2NC2=CC3=C(N=CS3)C=C2)Br)N1 | C24H24BrN5O2S
reactant | water | 0.04 mL | O | H2O
reactant | acetonitrile- | 4 mL | C(C)#N | C2H3N
catalyst | DPPF | 0.018 mmol, 10.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc cyanide | 0.075 mmol, 8.9 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2 dba3 | 0.007 mmol, 7.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[4-(Benzothiazol-6-ylamino)-5-cyano-1H-pyrrolo[2,3-b]pyridin-2-yl]-3,6-dihydro-2H-pyridine-1-carboxylicacid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=2C(=NC=C(C2NC2=CC3=C(N=CS3)C=C2)C#N)N1 | C25H24N6O2S
